US07635701B2
2-(2-Trifluoromethyl-4-bromo-phenylamino)-4-trifluoromethyl-pyrimidine-5-carboxylic acid (tetrahydro-pyran-4-ylmethyl)-amide
2-Chloro-4-trifluoromethyl-pyrimidin-5-carboxylic acid (tetrahydro-pyran-4-ylmethyl)-amide (80 mg) in 2-trifluoromethyl-4-bromoaniline (0.5 ml) was heated at 190° C. under microwave irradiation for 20 minutes. The sample was purified by mass directed auto-purification to afford the title compound (21 mg).

reactant | 2-Chloro-4-trifluoromethyl-pyrimidin-5-carboxylic acid (tetrahydro-pyran-4-ylmethyl)-amide | 80 mg | O1CCC(CC1)CNC(=O)C=1C(=NC(=NC1)Cl)C(F)(F)F | C12H13ClF3N3O2
reactant | 2-trifluoromethyl-4-bromoaniline | 0.5 ml | FC(C1=C(N)C=CC(=C1)Br)(F)F | C7H5BrF3N
product | 2-(2-Trifluoromethyl-4-bromo-phenylamino)-4-trifluoromethyl-pyrimidine-5-carboxylic acid (tetrahydro-pyran-4-ylmethyl)-amide | 21 mg | O1CCC(CC1)CNC(=O)C=1C(=NC(=NC1)NC1=C(C=C(C=C1)Br)C(F)(F)F)C(F)(F)F | C19H17BrF6N4O2
